* Extracted by KLayout with SG13G2 LVS runset on : 12/03/2026 05:16

.SUBCKT user_project_wrapper VDD VSS analog_io[9] analog_io[10] analog_io[11]
+ analog_io[12] analog_io[13] analog_io[14] analog_io[15] analog_io[16]
+ analog_io[17] IOVDD IOVSS analog_io[0] analog_io[18] analog_io[1]
+ analog_io[19] analog_io[2] analog_io[20] analog_io[3] analog_io[21]
+ analog_io[4] analog_io[22] analog_io[5] analog_io[23] analog_io[6]
+ analog_io[24] analog_io[7] analog_io[25] analog_io[8] analog_io[26]
+ analog_io[27] analog_io[28] analog_io[29] analog_io[30] analog_io[31]
+ analog_io[32] analog_io[33] analog_io[34] analog_io[35]
X$1 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$3 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler1000
X$4 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$5 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler200
X$6 \$1 VDD IOVSS IOVSS VSS sg13g2_IOPadVdd
X$8 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$9 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$10 \$1 VSS IOVSS IOVSS IOVDD sg13g2_IOPadVss
X$12 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$13 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$14 \$1 analog_io[9] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$16 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$17 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$18 \$1 analog_io[10] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$20 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$21 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$22 \$1 analog_io[11] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$24 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$25 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$26 \$1 analog_io[12] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$28 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$29 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$30 \$1 analog_io[13] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$32 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$33 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$34 \$1 analog_io[14] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$36 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$37 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$38 \$1 analog_io[15] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$40 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$41 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$42 \$1 analog_io[16] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$44 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$45 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$46 \$1 analog_io[17] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$48 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$49 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$50 \$1 IOVDD IOVSS IOVSS VSS sg13g2_IOPadIOVdd
X$52 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$53 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$54 \$1 IOVSS IOVDD VSS sg13g2_IOPadIOVss
X$56 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$57 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler1000
X$58 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$59 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler200
X$61 \$1 analog_io[0] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$63 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$64 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$65 \$1 VSS IOVSS IOVSS IOVDD sg13g2_IOPadVss
X$67 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$68 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$69 \$1 VDD IOVSS IOVSS VSS sg13g2_IOPadVdd
X$71 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler200
X$72 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$73 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler1000
X$74 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$75 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$76 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$77 \$1 analog_io[1] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$79 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$80 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$81 \$1 analog_io[2] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$83 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$84 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$85 \$1 analog_io[3] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$87 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$88 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$89 \$1 analog_io[4] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$91 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$92 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler1000
X$93 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$94 \$1 VDD IOVSS IOVSS VSS sg13g2_IOPadVdd
X$95 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler200
X$96 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$97 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$98 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$99 \$1 analog_io[18] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$100 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$101 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$102 \$1 analog_io[19] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$103 \$1 VSS IOVSS IOVSS IOVDD sg13g2_IOPadVss
X$104 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$105 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$106 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$107 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$108 \$1 analog_io[21] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$109 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$110 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$111 \$1 analog_io[22] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$112 \$1 analog_io[20] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$113 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$121 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$122 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$123 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$124 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$125 \$1 analog_io[5] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$127 \$1 analog_io[23] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$129 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$130 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$131 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$132 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$133 \$1 analog_io[6] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$135 \$1 analog_io[24] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$137 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$138 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$139 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$140 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$141 \$1 analog_io[7] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$143 \$1 analog_io[25] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$145 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$146 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$147 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$148 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$149 \$1 analog_io[8] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$151 \$1 analog_io[26] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$153 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$154 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$155 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$156 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$157 \$1 IOVDD IOVSS IOVSS VSS sg13g2_IOPadIOVdd
X$159 \$1 IOVDD IOVSS IOVSS VSS sg13g2_IOPadIOVdd
X$161 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$162 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$163 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$164 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$165 \$1 IOVSS IOVDD VSS sg13g2_IOPadIOVss
X$167 \$1 IOVSS IOVDD VSS sg13g2_IOPadIOVss
X$169 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$170 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler1000
X$171 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$172 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler1000
X$173 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$174 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler200
X$175 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$176 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler200
X$178 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$179 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler1000
X$180 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$181 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler200
X$182 \$1 IOVDD IOVSS IOVSS VSS sg13g2_IOPadIOVdd
X$183 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$184 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$185 \$1 IOVSS IOVDD VSS sg13g2_IOPadIOVss
X$186 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$187 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$188 \$1 analog_io[27] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$189 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$190 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$191 \$1 analog_io[28] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$192 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$193 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$194 \$1 analog_io[29] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$195 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$196 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$197 \$1 analog_io[30] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$198 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$199 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$200 \$1 analog_io[31] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$201 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$202 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$203 \$1 analog_io[32] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$204 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$205 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$206 \$1 analog_io[33] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$207 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$208 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$209 \$1 analog_io[34] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$210 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$211 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$212 \$1 analog_io[35] IOVSS IOVDD IOVDD VSS sg13g2_IOPadAnalog
X$213 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$214 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$215 \$1 IOVDD IOVSS IOVSS VSS sg13g2_IOPadIOVdd
X$216 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$217 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$218 \$1 IOVSS IOVDD VSS sg13g2_IOPadIOVss
X$219 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler4000
X$220 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler1000
X$221 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler400
X$222 \$1 IOVSS IOVSS IOVSS VSS sg13g2_Filler200
R$1 \$1 IOVSS ptap1 A=40674.96p P=3929.688u
R$4 \$1 VSS ptap1 A=52.7736p P=338.816u
.ENDS user_project_wrapper

.SUBCKT sg13g2_IOPadVss \$1 vss iovss iovss1 iovdd
X$1 \$1 iovss vss vss sg13g2_DCNDiode
X$2 iovdd vss vss sg13g2_DCPDiode_noptap
R$1 \$1 iovss1 ptap1 A=5407.1p P=703.48u
R$2 \$1 vss ptap1 A=24p P=160.6u
.ENDS sg13g2_IOPadVss

.SUBCKT sg13g2_IOPadVdd \$1 vdd iovss iovss1 vss
X$1 \$1 iovss vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd
+ vdd vdd vdd vdd vdd vdd \$10 sg13g2_Clamp_N43N43D4R
X$2 vdd \$6 sg13g2_RCClampResistor
X$3 \$1 iovss1 \$6 \$10 vdd sg13g2_RCClampInverter_noptap
R$1 \$1 iovss1 ptap1 A=2051.93485p P=727.53u
R$2 \$1 vss ptap1 A=24p P=160.6u
.ENDS sg13g2_IOPadVdd

.SUBCKT sg13g2_IOPadIOVss \$1 iovss iovdd vss
X$1 \$1 iovss iovss iovss sg13g2_DCNDiode
X$2 iovdd iovss iovss sg13g2_DCPDiode_noptap
R$1 \$1 iovss ptap1 A=5407.1p P=703.48u
R$2 \$1 vss ptap1 A=24p P=160.6u
.ENDS sg13g2_IOPadIOVss

.SUBCKT sg13g2_IOPadIOVdd \$1 iovdd iovss iovss1 vss
X$1 iovdd \$5 sg13g2_RCClampResistor
X$2 \$1 iovss iovdd iovdd iovdd iovdd iovdd iovdd iovdd iovdd iovdd iovdd iovdd
+ iovdd iovdd iovdd iovdd iovdd iovdd iovdd iovdd iovdd iovdd iovdd \$7
+ sg13g2_Clamp_N43N43D4R
X$3 \$1 iovss1 \$5 \$7 iovdd sg13g2_RCClampInverter_noptap
R$1 \$1 iovss1 ptap1 A=2052.0763p P=727.52u
R$2 \$1 vss ptap1 A=24p P=160.6u
.ENDS sg13g2_IOPadIOVdd

.SUBCKT sg13g2_Filler200 \$1 iovss1 iovss2 iovss3 vss
R$1 \$1 iovss1 ptap1 A=13.7536p P=50.24u
R$2 \$1 iovss2 ptap1 A=13.4736p P=49.24u
R$3 \$1 iovss3 ptap1 A=13.748p P=50.22u
R$4 \$1 vss ptap1 A=0.678p P=5.12u
.ENDS sg13g2_Filler200

.SUBCKT sg13g2_Filler400 \$1 iovss1 iovss2 iovss3 vss
R$1 \$1 iovss1 ptap1 A=38.3136p P=52.24u
R$2 \$1 iovss2 ptap1 A=37.5336p P=51.24u
R$3 \$1 iovss3 ptap1 A=38.298p P=52.22u
R$4 \$1 vss ptap1 A=0.672p P=5.08u
.ENDS sg13g2_Filler400

.SUBCKT sg13g2_Filler1000 \$1 iovss1 iovss2 iovss3 vss
R$1 \$1 iovss1 ptap1 A=110.52p P=58.12u
R$2 \$1 iovss2 ptap1 A=108.27p P=57.12u
R$3 \$1 iovss3 ptap1 A=110.475p P=58.1u
R$4 \$1 vss ptap1 A=1.368p P=9.72u
.ENDS sg13g2_Filler1000

.SUBCKT sg13g2_Filler4000 \$1 iovss1 iovss2 iovss3 vss
R$1 \$1 iovss1 ptap1 A=478.92p P=88.12u
R$2 \$1 iovss2 ptap1 A=469.17p P=87.12u
R$3 \$1 iovss3 ptap1 A=478.725p P=88.1u
R$4 \$1 vss ptap1 A=5.85p P=39.6u
.ENDS sg13g2_Filler4000

.SUBCKT sg13g2_IOPadAnalog \$1 pad iovss iovdd iovdd$1 vss
X$1 \$1 iovss padres pad iovdd$1 sg13g2_SecondaryProtection
X$2 \$1 iovss pad pad sg13g2_DCNDiode
X$3 \$1 iovss pad pad pad pad pad pad pad pad pad pad sg13g2_Clamp_N20N0D
X$4 iovdd pad pad sg13g2_DCPDiode_noptap
R$1 \$1 iovss ptap1 A=4373.9448p P=1112.3u
R$2 \$1 vss ptap1 A=23.85p P=159.6u
M$4 iovdd \$I11 pad iovdd sg13_hv_pmos L=0.6u W=266.4u AS=123.21p AD=123.21p
+ PS=316.72u PD=316.72u
R$44 iovdd \$I11 rppd w=0.5u l=12.9u ps=0 b=0 m=1
.ENDS sg13g2_IOPadAnalog

.SUBCKT sg13g2_RCClampResistor p1 p2
R$26 p2 p1 rppd w=1u l=520u ps=0 b=0 m=1
.ENDS sg13g2_RCClampResistor

.SUBCKT sg13g2_Clamp_N43N43D4R \$2 iovss pad[0] pad[1] pad[2] pad[3] pad[4]
+ pad[5] pad[6] pad[7] pad[8] pad[9] pad[10] pad[11] pad[12] pad[13] pad[14]
+ pad[15] pad[16] pad[17] pad[18] pad[19] pad[20] pad[21] gate
M$1 iovss gate pad[0] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=18.656p AD=16.016p
+ PS=61.28u PD=42.48u
M$3 iovss gate pad[1] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$5 iovss gate pad[2] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$7 iovss gate pad[3] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$9 iovss gate pad[4] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$11 iovss gate pad[5] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$13 iovss gate pad[6] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$15 iovss gate pad[7] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$17 iovss gate pad[8] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$19 iovss gate pad[9] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$21 iovss gate pad[10] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$23 iovss gate pad[11] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$25 iovss gate pad[12] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$27 iovss gate pad[13] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$29 iovss gate pad[14] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$31 iovss gate pad[15] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$33 iovss gate pad[16] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$35 iovss gate pad[17] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$37 iovss gate pad[18] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$39 iovss gate pad[19] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$41 iovss gate pad[20] \$2 sg13_hv_nmos L=0.6u W=35.2u AS=16.016p AD=16.016p
+ PS=42.48u PD=42.48u
M$43 iovss gate pad[21] \$2 sg13_hv_nmos L=0.6u W=17.6u AS=5.632p AD=13.024p
+ PS=20.16u PD=41.12u
D$173 \$2 gate dantenna A=0.2304p P=1.92u m=1
R$174 \$2 iovss ptap1 A=65.6472p P=386.16u
.ENDS sg13g2_Clamp_N43N43D4R

.SUBCKT sg13g2_RCClampInverter_noptap \$1 iovss1 in out supply
M$1 iovss1 in iovss1 \$1 sg13_hv_nmos L=9.5u W=126u AS=26.64p AD=23.94p
+ PS=149.92u PD=131.32u
M$8 iovss1 in out \$1 sg13_hv_nmos L=0.5u W=108u AS=20.52p AD=23.22p PS=112.56u
+ PD=131.16u
M$27 supply in out supply sg13_hv_pmos L=0.5u W=350u AS=67.55p AD=67.55p
+ PS=376.3u PD=376.3u
.ENDS sg13g2_RCClampInverter_noptap

.SUBCKT sg13g2_SecondaryProtection \$1 iovss core pad iovdd
D$1 \$1 core dantenna A=1.984p P=7.48u m=1
D$2 core iovdd dpantenna A=3.1872p P=11.24u m=1
R$3 pad core rppd w=1u l=2u ps=0 b=0 m=1
R$4 \$1 iovss ptap1 A=9.0304p P=53.12u
.ENDS sg13g2_SecondaryProtection

.SUBCKT sg13g2_DCPDiode_noptap cathode anode1 anode2
D$1 anode2 cathode dpantenna A=35.0028p P=58.08u m=1
D$2 anode1 cathode dpantenna A=35.0028p P=58.08u m=1
.ENDS sg13g2_DCPDiode_noptap

.SUBCKT sg13g2_DCNDiode \$2 anode cathode1 cathode2
D$1 \$2 cathode2 dantenna A=35.0028p P=58.08u m=1
D$2 \$2 cathode1 dantenna A=35.0028p P=58.08u m=1
R$3 \$2 anode ptap1 A=141.2964p P=221.76u
.ENDS sg13g2_DCNDiode

.SUBCKT sg13g2_Clamp_N20N0D \$2 iovss pad[0] pad[1] pad[2] pad[3] pad[4] pad[5]
+ pad[6] pad[7] pad[8] pad[9]
M$1 iovss \$4 pad[0] \$2 sg13_hv_nmos L=0.6u W=8.8u AS=4.664p AD=4.004p
+ PS=15.32u PD=10.62u
M$3 iovss \$4 pad[1] \$2 sg13_hv_nmos L=0.6u W=8.8u AS=4.004p AD=4.004p
+ PS=10.62u PD=10.62u
M$5 iovss \$4 pad[2] \$2 sg13_hv_nmos L=0.6u W=8.8u AS=4.004p AD=4.004p
+ PS=10.62u PD=10.62u
M$7 iovss \$4 pad[3] \$2 sg13_hv_nmos L=0.6u W=8.8u AS=4.004p AD=4.004p
+ PS=10.62u PD=10.62u
M$9 iovss \$4 pad[4] \$2 sg13_hv_nmos L=0.6u W=8.8u AS=4.004p AD=4.004p
+ PS=10.62u PD=10.62u
M$11 iovss \$4 pad[5] \$2 sg13_hv_nmos L=0.6u W=8.8u AS=4.004p AD=4.004p
+ PS=10.62u PD=10.62u
M$13 iovss \$4 pad[6] \$2 sg13_hv_nmos L=0.6u W=8.8u AS=4.004p AD=4.004p
+ PS=10.62u PD=10.62u
M$15 iovss \$4 pad[7] \$2 sg13_hv_nmos L=0.6u W=8.8u AS=4.004p AD=4.004p
+ PS=10.62u PD=10.62u
M$17 iovss \$4 pad[8] \$2 sg13_hv_nmos L=0.6u W=8.8u AS=4.004p AD=4.004p
+ PS=10.62u PD=10.62u
M$19 iovss \$4 pad[9] \$2 sg13_hv_nmos L=0.6u W=8.8u AS=4.004p AD=4.664p
+ PS=10.62u PD=15.32u
R$21 iovss \$4 rppd w=0.5u l=3.54u ps=0 b=0 m=1
R$22 \$2 iovss ptap1 A=55.7736p P=328.08u
.ENDS sg13g2_Clamp_N20N0D
